* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.SUBCKT ADA4091 1 2 99 50 45
I1   99   7    8.00E-06
Q1   6    4    7A    QP
Q2   5    3    7B    QP
RE1  7A   7   7.774E+02
RE2  7B   7   7.774E+02
D1   3    99   DX
D2   4    99   DX
D3   50   3    DX
D4   50   4    DX
D5   3    4    DX
D6   4    3    DX
R1   3    8    5E+03
R2   4    2    5E+03
R3   5    50   7.500E4;
R4   6    50   7.500E4;
Cph  5    5A   0.235E-12
Rph  5A   6    300
VOS 8 8A -50.48u
EPSRp 8A 1 99 50 495.4n 
IOS  3    4     -50E-12
CDiff  1    2    2.5E-12
Cin1   1   50    2E-12
Cin2   2   50    2E-12
*
* INPUT PROTECTION NETWORK
*
X_in1 1 50 Diac1
X_in2 2 50 Diac1
X_in3 1 99 Diac1
X_in4 2 99 Diac1
*
*
RS1  99   39   400.0E3
RS2  39   50   400.0E3
EREF 98   0    (39,0) 1
*
* 1ST GAIN STAGE
*
G1   9  98    (6,5) 1.0E-06
R7   9   98   1E6
*
* 2ND GAIN STAGE AND DOMINANT POLE
*
R8    12   98   1.094E+08
G2    12   98  (98,9) 3.881E-06
D7   12   13   DX
D8   14   12   DX
V1   13   98   +0.2; source
V2   14   98   -0.2; sink
*
* Provision for second pole
*
G3   18   98   (98,12) 1E-05
R11  18   98   1E5
*
* CMRR=90dB, Pole at 1100 Hz
*
ECM  21   98   POLY(2) (1,98) (2,98) 0 1.318E-01 1.318E-01
R10  21   22   1.326E+05
R20  22   98   1.592E+01
C10  21   22   1E-9
*
* PSRR=85dB, POLE AT 300 Hz
*
EPSY 72 98 POLY(1) (99,50) +0.1E-1 1.770E+01
RPS1 72 73 7.958E+02
RPS2 73 98 3.183E-03
CPS1 72 73 1.00E-06
*
* VOLTAGE NOISE REFERENCE OF 24nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 96.300E-3
HN  81 98 VN1 2.397E+01
RN2 81 98 1
*
* FLICKER NOISE CORNER = 300 Hz
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.6551
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* OUTPUT STAGE
*
Q3   451 41 99 POUT
RB1  40 41 1.5E+03
EB1  99 40 POLY(1) (98,18) 6.190E-01  1E-0;
Q4   451 43 50 NOUT
RB2  42 43 2.0E+03
EB2  42 50 POLY(1) (18,98) 6.155E-01  1E-0;
Lout 45 451  10E-10
RZ  45 453  100
CZ  453  12  4.67E-12
*
GSY  99 50 POLY(1) (99 50) 106.2E-6 -0.89E-06
*
* MODELS
*
.MODEL QP PNP(BF=80, IS=1.00E-16, VA=130)
.MODEL POUT PNP (BF=80,IS=2.8E-15,VA=130,IK=6E+00,BR=15,VAR=14.4, RC=30)
.MODEL NOUT NPN (BF=120,IS=3.2E-15,VA=250,IK=11E+00,BR=30, VAR=20.0, RC=7)
.MODEL DW D(IS=1E-18)
.MODEL DX D()
.MODEL DY D(IS=1E-9)
.MODEL DZ D(IS=1E-6)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=8.640E-12)
*
.SUBCKT Diac1 1 2
Done 1 3 DZ42hh
Dtwo 2 3 DZ42hh
.MODEL DZ42hh D(IS=3.3179E-6, N=2.0, RS=1.0000E-3, CJO=10.00E-12, M=.31349, VJ=.3905, ISR=2.9061E-9, BV=42.0, IBV=5.0E-03, TT=300.0E-9)
.ENDS Diac1
*
*
.ENDS  ADA4091